US05182279
Fuming hydrochloric acid (1.92 ml, 24 mmol) was added to a suspension of 3-amino-2-nitrobenzo[b]thiophene (4.66 g, 24 mmol) (G. Van Zyl et al., Can. J. Chem., 44, 2283 (1966)) in 500 ml of 96% ethanol, and the mixture was hydrogenated in a Parr hydrogenation apparatus for 7 h at 40 psi and room temperature in the presence of 1 g of 5% palladium on carbon. The catalyst was filtered off under nitrogen, and the filtrate was evaporated to dryness to give 4.89 g (100%) of 2,3-diaminobenzo[b]thiophene hydrochloride, which was used in the next step without further purification.

reactant | hydrochloric acid | 24 mmol, 1.92 ml | Cl | ClH
reactant | 3-amino-2-nitrobenzo[b]thiophene | 24 mmol, 4.66 g | NC=1C2=C(SC1[N+](=O)[O-])C=CC=C2 | C8H6N2O2S
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 2,3-diaminobenzo[b]thiophene hydrochloride | 4.89 g, 100% | Cl.NC1=C(C2=C(S1)C=CC=C2)N | InChI=1S/C8H8N2S.ClH/c9-7-5-3-1-2-4-6(5)11-8(7)10;/h1-4H,9-10H2;1H
